US06759559B2
Preparation of (1 R,2R)-N-(2-diphenylphosphanylbenzyl)cyclohexane-1,2-diamine:
A solution, heated to 45° C., of 2.5 g of 2-diphenylphosphanylbenzaldehyde (8.6 mmol) in 250 ml of absolute ethanol is added dropwise over a period of 16 hours to a solution of 3.3 g of (1R,2R)-cyclohexane-1,2-diamine (28 mmol) in 500 ml of absolute ethanol at 0° C. under a protective gas atmosphere. The reaction solution is stirred for one hour at 0° C. and 1.37 g of sodium hydridoborate (36 mmol) are then added. The reaction mixture is slowly allowed to rise to room temperature and stirred for a further 12 hours. The reaction is then quenched by adding 100 ml of acetone and the solvent is completely removed in a rotary evaporator. The resultant residue is completely dissolved by adding 100 ml of saturated ammonium hydrochloride solution and 100 ml of methylene chloride. The organic phase is then separated and washed three times with water. 100 ml of 10% hydrochloric acid are then poured on and the mixture shaken. After a short time in the refrigerator, the product crystallises out as a white mass (hydrochloride). After drying under a high vacuum, a yield of 2.54 g (70% of theoretical) is obtained.

reactant | 2-diphenylphosphanylbenzaldehyde | 8.6 mmol, 2.5 g | C1(=CC=CC=C1)P(C1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C19H15OP
reactant | (1R,2R)-cyclohexane-1,2-diamine | 28 mmol, 3.3 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (1 R,2R)-N-(2-diphenylphosphanylbenzyl)cyclohexane-1,2-diamine | C1(=CC=CC=C1)P(C1=C(CN[C@H]2[C@@H](CCCC2)N)C=CC=C1)C1=CC=CC=C1 | C25H29N2P
